************************************************************
.SUBCKT AN2D0BWP A1 A2 Z VDD VSS 
M_u3-M_u2 Z net6 VSS VSS nmos w=0.155u l=0.04u
M_u2-M_u4 X_u2-net6 A2 VSS VSS nmos w=0.155u l=0.04u
M_u2-M_u3 net6 A1 X_u2-net6 VSS nmos w=0.155u l=0.04u
M_u3-M_u3 Z net6 VDD VDD pmos w=0.205u l=0.04u
M_u2-M_u2 net6 A2 VDD VDD pmos w=0.205u l=0.04u
M_u2-M_u1 net6 A1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AN3D0BWP A1 A2 A3 Z VDD VSS 
M_u4-M_u4 net7 A1 X_u4-net10 VSS nmos w=0.155u l=0.04u
M_u4-M_u5 X_u4-net10 A2 X_u4-net13 VSS nmos w=0.155u l=0.04u
M_u4-M_u6 X_u4-net13 A3 VSS VSS nmos w=0.155u l=0.04u
M_u3-M_u2 Z net7 VSS VSS nmos w=0.155u l=0.04u
M_u4-M_u3 net7 A3 VDD VDD pmos w=0.205u l=0.04u
M_u4-M_u1 net7 A1 VDD VDD pmos w=0.205u l=0.04u
M_u4-M_u2 net7 A2 VDD VDD pmos w=0.205u l=0.04u
M_u3-M_u3 Z net7 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AN4D0BWP A1 A2 A3 A4 Z VDD VSS 
M_u3-M_u2 Z net6 VSS VSS nmos w=0.155u l=0.04u
MU30-M_u5 net6 A1 XU30-net23 VSS nmos w=0.155u l=0.04u
MU30-MI0 XU30-net23 A2 XU30-net26 VSS nmos w=0.155u l=0.04u
MU30-MI1 XU30-net26 A3 XU30-net29 VSS nmos w=0.155u l=0.04u
MU30-MI2 XU30-net29 A4 VSS VSS nmos w=0.155u l=0.04u
M_u3-M_u3 Z net6 VDD VDD pmos w=0.205u l=0.04u
MU30-M_u4 net6 A4 VDD VDD pmos w=0.205u l=0.04u
MU30-M_u3 net6 A3 VDD VDD pmos w=0.205u l=0.04u
MU30-M_u2 net6 A2 VDD VDD pmos w=0.205u l=0.04u
MU30-M_u1 net6 A1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AO211D0BWP A1 A2 B C Z VDD VSS 
MI8-M_u3 Z net27 VDD VDD pmos w=0.205u l=0.04u
M_u3 net11 A1 net27 VDD pmos w=0.205u l=0.04u
MI0 net11 A2 net27 VDD pmos w=0.205u l=0.04u
MI16-MI12 net11 B XI16-net11 VDD pmos w=0.205u l=0.04u
MI16-MI13 XI16-net11 C VDD VDD pmos w=0.205u l=0.04u
M_u12 net27 C VSS VSS nmos w=0.155u l=0.04u
M_u13 net27 B VSS VSS nmos w=0.155u l=0.04u
MI8-M_u2 Z net27 VSS VSS nmos w=0.155u l=0.04u
MI12-M_u10 net27 A1 XI12-net17 VSS nmos w=0.155u l=0.04u
MI12-M_u11 XI12-net17 A2 VSS VSS nmos w=0.155u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AO21D0BWP A1 A2 B Z VDD VSS 
MI12 net32 A2 VSS VSS nmos w=0.155u l=0.04u
MI11 net59 A1 net32 VSS nmos w=0.155u l=0.04u
MI6 net59 B VSS VSS nmos w=0.155u l=0.04u
MI8-M_u2 Z net59 VSS VSS nmos w=0.155u l=0.04u
MI8-M_u3 Z net59 VDD VDD pmos w=0.2u l=0.04u
MI10 net59 A1 net22 VDD pmos w=0.205u l=0.04u
MI9 net59 A2 net22 VDD pmos w=0.205u l=0.04u
M_u2 net22 B VDD VDD pmos w=0.2u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AOI21D0BWP A1 A2 B ZN VDD VSS 
MI2 ZN A1 net27 VSS nmos w=0.155u l=0.04u
MI10 net27 A2 VSS VSS nmos w=0.155u l=0.04u
MI11 ZN B VSS VSS nmos w=0.155u l=0.04u
MI8 ZN A2 net13 VDD pmos w=0.205u l=0.04u
M_u2 net13 B VDD VDD pmos w=0.205u l=0.04u
MI9 ZN A1 net13 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AOI222D0BWP A1 A2 B1 B2 C1 C2 ZN VDD VSS 
MI21-M_u10 ZN C1 XI21-net17 VSS nmos w=0.155u l=0.04u
MI21-M_u11 XI21-net17 C2 VSS VSS nmos w=0.155u l=0.04u
MI6-M_u10 ZN A1 XI6-net17 VSS nmos w=0.155u l=0.04u
MI6-M_u11 XI6-net17 A2 VSS VSS nmos w=0.155u l=0.04u
MI20-M_u10 ZN B1 XI20-net17 VSS nmos w=0.155u l=0.04u
MI20-M_u11 XI20-net17 B2 VSS VSS nmos w=0.155u l=0.04u
MI15 VDD C1 net22 VDD pmos w=0.205u l=0.04u
MU27 VDD C2 net22 VDD pmos w=0.205u l=0.04u
MI19 net16 A1 ZN VDD pmos w=0.205u l=0.04u
MI18 net16 A2 ZN VDD pmos w=0.205u l=0.04u
MI17 net22 B1 net16 VDD pmos w=0.205u l=0.04u
MI16 net22 B2 net16 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT AOI22D0BWP A1 A2 B1 B2 ZN VDD VSS 
MI22 net29 B2 VSS VSS nmos w=0.155u l=0.04u
MI21 ZN B1 net29 VSS nmos w=0.155u l=0.04u
MI9 ZN A1 net23 VSS nmos w=0.155u l=0.04u
MI20 net23 A2 VSS VSS nmos w=0.155u l=0.04u
MI18 net20 A2 ZN VDD pmos w=0.205u l=0.04u
MI19 net20 A1 ZN VDD pmos w=0.205u l=0.04u
MI17 VDD B1 net20 VDD pmos w=0.205u l=0.04u
M_u5 VDD B2 net20 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT CKMUX2D0BWP I0 I1 S Z VDD VSS 
MU29-M_u2 Z net28 VSS VSS nmos w=0.155u l=0.04u
MI111 net47 I0 VSS VSS nmos w=0.155u l=0.04u
MI5 net28 net6 net47 VSS nmos w=0.155u l=0.04u
MI14 net44 I1 VSS VSS nmos w=0.155u l=0.04u
MI13 net28 S net44 VSS nmos w=0.155u l=0.04u
MU24 net6 S VSS VSS nmos w=0.155u l=0.04u
MU29-M_u3 Z net28 VDD VDD pmos w=0.205u l=0.04u
MI2 VDD I0 net47 VDD pmos w=0.205u l=0.04u
MI4 net47 S net28 VDD pmos w=0.205u l=0.04u
MI12 net44 net6 net28 VDD pmos w=0.205u l=0.04u
MI10 VDD I1 net44 VDD pmos w=0.205u l=0.04u
MU25 VDD S net6 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT CKND0BWP I ZN VDD VSS 
M_u2 ZN I VSS VSS nmos w=0.135u l=0.04u
M_u1 ZN I VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT CKND2D0BWP A1 A2 ZN VDD VSS 
MU1-M_u4 XU1-net6 A2 VSS VSS nmos w=0.155u l=0.04u
MU1-M_u3 ZN A1 XU1-net6 VSS nmos w=0.155u l=0.04u
MU1-M_u2 ZN A2 VDD VDD pmos w=0.155u l=0.04u
MU1-M_u1 ZN A1 VDD VDD pmos w=0.155u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT CKXOR2D0BWP A1 A2 Z VDD VSS 
M_u6-M_u3 net4 net10 net14 VSS nmos w=0.155u l=0.04u
MI3-M_u3 net6 A1 net14 VSS nmos w=0.155u l=0.04u
MI1-M_u2 net4 A2 VSS VSS nmos w=0.155u l=0.04u
M_u5-M_u2 net6 net4 VSS VSS nmos w=0.155u l=0.04u
M_u4-M_u2 Z net14 VSS VSS nmos w=0.155u l=0.04u
MI2-M_u2 net10 A1 VSS VSS nmos w=0.155u l=0.04u
M_u6-M_u2 net4 A1 net14 VDD pmos w=0.205u l=0.04u
MI3-M_u2 net6 net10 net14 VDD pmos w=0.205u l=0.04u
MI1-M_u3 net4 A2 VDD VDD pmos w=0.205u l=0.04u
M_u5-M_u3 net6 net4 VDD VDD pmos w=0.205u l=0.04u
M_u4-M_u3 Z net14 VDD VDD pmos w=0.205u l=0.04u
MI2-M_u3 net10 A1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT IND2D0BWP A1 B1 ZN VDD VSS 
MI2-M_u2 net13 A1 VSS VSS nmos w=0.155u l=0.04u
MI13 net16 net13 VSS VSS nmos w=0.155u l=0.04u
MI12 ZN B1 net16 VSS nmos w=0.155u l=0.04u
MI2-M_u3 net13 A1 VDD VDD pmos w=0.205u l=0.04u
M_u16 VDD net13 ZN VDD pmos w=0.205u l=0.04u
MI11 VDD B1 ZN VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT INR2D0BWP A1 B1 ZN VDD VSS 
MU1-M_u4 ZN B1 VSS VSS nmos w=0.155u l=0.04u
MU1-M_u3 ZN net4 VSS VSS nmos w=0.155u l=0.04u
MU6-M_u2 net4 A1 VSS VSS nmos w=0.155u l=0.04u
MU1-M_u1 XU1-net8 net4 VDD VDD pmos w=0.205u l=0.04u
MU1-M_u2 ZN B1 XU1-net8 VDD pmos w=0.205u l=0.04u
MU6-M_u3 net4 A1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT INR4D0BWP A1 B1 B2 B3 ZN VDD VSS 
MU8-M_u4 ZN net15 VSS VSS nmos w=0.155u l=0.04u
MU8-M_u3 ZN B1 VSS VSS nmos w=0.155u l=0.04u
MU8-M_u5 ZN B2 VSS VSS nmos w=0.155u l=0.04u
MU8-M_u8 ZN B3 VSS VSS nmos w=0.155u l=0.04u
MU47-M_u2 net15 A1 VSS VSS nmos w=0.155u l=0.04u
MU8-M_u7 ZN B3 XU8-net7 VDD pmos w=0.41u l=0.04u
MU8-M_u6 XU8-net7 B2 XU8-net10 VDD pmos w=0.41u l=0.04u
MU8-M_u2 XU8-net10 B1 XU8-net13 VDD pmos w=0.41u l=0.04u
MU8-M_u1 XU8-net13 net15 VDD VDD pmos w=0.41u l=0.04u
MU47-M_u3 net15 A1 VDD VDD pmos w=0.31u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT IOA21D0BWP A1 A2 B ZN VDD VSS 
MU35-M_u4 XU35-net6 A2 VSS VSS nmos w=0.155u l=0.04u
MU35-M_u3 net5 A1 XU35-net6 VSS nmos w=0.155u l=0.04u
MU36-M_u4 XU36-net6 net5 VSS VSS nmos w=0.155u l=0.04u
MU36-M_u3 ZN B XU36-net6 VSS nmos w=0.155u l=0.04u
MU35-M_u2 net5 A2 VDD VDD pmos w=0.205u l=0.04u
MU35-M_u1 net5 A1 VDD VDD pmos w=0.205u l=0.04u
MU36-M_u2 ZN net5 VDD VDD pmos w=0.205u l=0.04u
MU36-M_u1 ZN B VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT MAOI22D0BWP A1 A2 B1 B2 ZN VDD VSS 
MI18 net17 B2 VSS VSS nmos w=0.155u l=0.04u
MI12 net17 B1 VSS VSS nmos w=0.155u l=0.04u
MI20 net63 A2 VSS VSS nmos w=0.155u l=0.04u
MI21 ZN net17 VSS VSS nmos w=0.155u l=0.04u
MI19 ZN A1 net63 VSS nmos w=0.155u l=0.04u
MI16 ZN A2 net31 VDD pmos w=0.205u l=0.04u
MI1 net39 B2 VDD VDD pmos w=0.195u l=0.04u
MI15 net31 net17 VDD VDD pmos w=0.195u l=0.04u
MI17 ZN A1 net31 VDD pmos w=0.195u l=0.04u
MI14 net17 B1 net39 VDD pmos w=0.195u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT MOAI22D0BWP A1 A2 B1 B2 ZN VDD VSS 
MU1 net8 B1 net26 VSS nmos w=0.155u l=0.04u
MI5 net26 B2 VSS VSS nmos w=0.155u l=0.04u
MI6 net29 net8 VSS VSS nmos w=0.155u l=0.04u
MU9 net29 A1 ZN VSS nmos w=0.155u l=0.04u
MU10 net29 A2 ZN VSS nmos w=0.155u l=0.04u
MU3 net8 B2 VDD VDD pmos w=0.205u l=0.04u
MI1 net8 B1 VDD VDD pmos w=0.205u l=0.04u
MI2 ZN net8 VDD VDD pmos w=0.205u l=0.04u
MI4 ZN A1 net20 VDD pmos w=0.205u l=0.04u
MI3 net20 A2 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT MUX2ND0BWP I0 I1 S ZN VDD VSS 
MI15-M_u2 net19 S VSS VSS nmos w=0.155u l=0.04u
MI21 ZN S net40 VSS nmos w=0.155u l=0.04u
MI12 ZN net19 net36 VSS nmos w=0.155u l=0.04u
MI20 net40 I1 VSS VSS nmos w=0.31u l=0.04u
MI19 net36 I0 VSS VSS nmos w=0.155u l=0.04u
MI15-M_u3 net19 S VDD VDD pmos w=0.205u l=0.04u
MI25 ZN net19 net26 VDD pmos w=0.325u l=0.04u
MI24 net26 I1 VDD VDD pmos w=0.41u l=0.04u
MI5 ZN S net30 VDD pmos w=0.325u l=0.04u
MI111 net30 I0 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT MUX4ND0BWP I0 I1 I2 I3 S0 S1 ZN VDD VSS 
MU18-M_u2 net24 S1 VSS VSS nmos w=0.155u l=0.04u
MI47-M_u2 net74 I2 VSS VSS nmos w=0.155u l=0.04u
MI55-M_u2 net72 I0 VSS VSS nmos w=0.155u l=0.04u
MI57-M_u2 net76 I3 VSS VSS nmos w=0.31u l=0.04u
MI58-M_u2 net044 S0 VSS VSS nmos w=0.155u l=0.04u
MI56-M_u2 net052 I1 VSS VSS nmos w=0.31u l=0.04u
MI51-M_u3 PG2 S1 ZN VSS nmos w=0.22u l=0.04u
MI52-M_u3 net74 net044 PG2 VSS nmos w=0.12u l=0.04u
MI49-M_u3 net052 S0 PG1 VSS nmos w=0.155u l=0.04u
MI50-M_u3 PG1 net24 ZN VSS nmos w=0.155u l=0.04u
MI54-M_u3 net76 S0 PG2 VSS nmos w=0.155u l=0.04u
MI48-M_u3 net72 net044 PG1 VSS nmos w=0.12u l=0.04u
MU18-M_u3 net24 S1 VDD VDD pmos w=0.205u l=0.04u
MI47-M_u3 net74 I2 VDD VDD pmos w=0.205u l=0.04u
MI55-M_u3 net72 I0 VDD VDD pmos w=0.205u l=0.04u
MI57-M_u3 net76 I3 VDD VDD pmos w=0.41u l=0.04u
MI58-M_u3 net044 S0 VDD VDD pmos w=0.205u l=0.04u
MI56-M_u3 net052 I1 VDD VDD pmos w=0.41u l=0.04u
MI51-M_u2 PG2 net24 ZN VDD pmos w=0.205u l=0.04u
MI52-M_u2 net74 S0 PG2 VDD pmos w=0.205u l=0.04u
MI49-M_u2 net052 net044 PG1 VDD pmos w=0.205u l=0.04u
MI50-M_u2 PG1 S1 ZN VDD pmos w=0.29u l=0.04u
MI54-M_u2 net76 net044 PG2 VDD pmos w=0.205u l=0.04u
MI48-M_u2 net72 S0 PG1 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT ND3D0BWP A1 A2 A3 ZN VDD VSS 
MI0-M_u4 ZN A1 XI0-net10 VSS nmos w=0.155u l=0.04u
MI0-M_u5 XI0-net10 A2 XI0-net13 VSS nmos w=0.155u l=0.04u
MI0-M_u6 XI0-net13 A3 VSS VSS nmos w=0.155u l=0.04u
MI0-M_u3 ZN A3 VDD VDD pmos w=0.205u l=0.04u
MI0-M_u1 ZN A1 VDD VDD pmos w=0.205u l=0.04u
MI0-M_u2 ZN A2 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT NR2D0BWP A1 A2 ZN VDD VSS 
MI1-M_u4 ZN A1 VSS VSS nmos w=0.155u l=0.04u
MI1-M_u3 ZN A2 VSS VSS nmos w=0.155u l=0.04u
MI1-M_u1 XI1-net8 A2 VDD VDD pmos w=0.205u l=0.04u
MI1-M_u2 ZN A1 XI1-net8 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT NR3D0BWP A1 A2 A3 ZN VDD VSS 
M_u4 ZN A3 VSS VSS nmos w=0.155u l=0.04u
MI2 ZN A2 VSS VSS nmos w=0.155u l=0.04u
MI3 ZN A1 VSS VSS nmos w=0.155u l=0.04u
M_u1 net25 A3 VDD VDD pmos w=0.41u l=0.04u
MI0 net28 A2 net25 VDD pmos w=0.41u l=0.04u
MI1 ZN A1 net28 VDD pmos w=0.41u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT NR4D0BWP A1 A2 A3 A4 ZN VDD VSS 
MI36 ZN A4 VSS VSS nmos w=0.155u l=0.04u
MI35 ZN A3 VSS VSS nmos w=0.155u l=0.04u
MI34 ZN A2 VSS VSS nmos w=0.155u l=0.04u
MI5 ZN A1 VSS VSS nmos w=0.155u l=0.04u
MI26 net49 A3 net52 VDD pmos w=0.41u l=0.04u
MI7 net52 A4 VDD VDD pmos w=0.41u l=0.04u
MI27 net46 A2 net49 VDD pmos w=0.41u l=0.04u
MI28 ZN A1 net46 VDD pmos w=0.41u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OA21D0BWP A1 A2 B Z VDD VSS 
MI19 net14 A2 net20 VSS nmos w=0.155u l=0.04u
MI11 net14 A1 net20 VSS nmos w=0.155u l=0.04u
MI20 net20 B VSS VSS nmos w=0.155u l=0.04u
MI8-M_u2 Z net14 VSS VSS nmos w=0.155u l=0.04u
MI8-M_u3 Z net14 VDD VDD pmos w=0.205u l=0.04u
M_u2 net14 B VDD VDD pmos w=0.205u l=0.04u
MI17 net24 A2 VDD VDD pmos w=0.205u l=0.04u
MI18 net14 A1 net24 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OAI21D0BWP A1 A2 B ZN VDD VSS 
M_u2 ZN A1 net15 VSS nmos w=0.155u l=0.04u
M_u3 ZN A2 net15 VSS nmos w=0.155u l=0.04u
M_u4 net15 B VSS VSS nmos w=0.155u l=0.04u
M_u9 ZN B VDD VDD pmos w=0.205u l=0.04u
MI16-MI12 ZN A1 XI16-net11 VDD pmos w=0.205u l=0.04u
MI16-MI13 XI16-net11 A2 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OAI221D0BWP A1 A2 B1 B2 C ZN VDD VSS 
MI14 ZN A2 net26 VSS nmos w=0.155u l=0.04u
MI7 ZN A1 net26 VSS nmos w=0.155u l=0.04u
MI6 net29 C VSS VSS nmos w=0.155u l=0.04u
M_u4 net26 B1 net29 VSS nmos w=0.155u l=0.04u
MI5 net26 B2 net29 VSS nmos w=0.155u l=0.04u
MI13 ZN A1 net43 VDD pmos w=0.205u l=0.04u
MI11 ZN B2 net49 VDD pmos w=0.205u l=0.04u
MI9 net49 B1 VDD VDD pmos w=0.205u l=0.04u
MI12 net43 A2 VDD VDD pmos w=0.205u l=0.04u
MU24 ZN C VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OAI22D0BWP A1 A2 B1 B2 ZN VDD VSS 
MI9 ZN A1 net10 VSS nmos w=0.155u l=0.04u
M_u4 net10 B2 VSS VSS nmos w=0.155u l=0.04u
MI8 ZN A2 net10 VSS nmos w=0.155u l=0.04u
MI7 net10 B1 VSS VSS nmos w=0.155u l=0.04u
MU24 net30 B2 VDD VDD pmos w=0.205u l=0.04u
MI6 ZN A1 net24 VDD pmos w=0.205u l=0.04u
MI5 net24 A2 VDD VDD pmos w=0.205u l=0.04u
MI4 ZN B1 net30 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OR2D0BWP A1 A2 Z VDD VSS 
MU1-M_u2 Z net7 VSS VSS nmos w=0.155u l=0.04u
M_u7-M_u4 net7 A1 VSS VSS nmos w=0.155u l=0.04u
M_u7-M_u3 net7 A2 VSS VSS nmos w=0.155u l=0.04u
MU1-M_u3 Z net7 VDD VDD pmos w=0.205u l=0.04u
M_u7-M_u1 X_u7-net8 A2 VDD VDD pmos w=0.205u l=0.04u
M_u7-M_u2 net7 A1 X_u7-net8 VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OR3D0BWP A1 A2 A3 Z VDD VSS 
MU42-M_u6 net7 A3 VSS VSS nmos w=0.155u l=0.04u
MU42-M_u5 net7 A2 VSS VSS nmos w=0.155u l=0.04u
MU42-M_u4 net7 A1 VSS VSS nmos w=0.155u l=0.04u
M_u4-M_u2 Z net7 VSS VSS nmos w=0.155u l=0.04u
MU42-M_u1 XU42-net9 A1 VDD VDD pmos w=0.205u l=0.04u
MU42-M_u2 XU42-net12 A2 XU42-net9 VDD pmos w=0.205u l=0.04u
MU42-M_u3 net7 A3 XU42-net12 VDD pmos w=0.205u l=0.04u
M_u4-M_u3 Z net7 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT OR4D0BWP A1 A2 A3 A4 Z VDD VSS 
MU8-M_u4 net14 A1 VSS VSS nmos w=0.155u l=0.04u
MU8-M_u3 net14 A2 VSS VSS nmos w=0.155u l=0.04u
MU8-M_u5 net14 A3 VSS VSS nmos w=0.155u l=0.04u
MU8-M_u8 net14 A4 VSS VSS nmos w=0.155u l=0.04u
M_u3-M_u2 Z net14 VSS VSS nmos w=0.155u l=0.04u
MU8-M_u7 net14 A4 XU8-net7 VDD pmos w=0.205u l=0.04u
MU8-M_u6 XU8-net7 A3 XU8-net10 VDD pmos w=0.205u l=0.04u
MU8-M_u2 XU8-net10 A2 XU8-net13 VDD pmos w=0.205u l=0.04u
MU8-M_u1 XU8-net13 A1 VDD VDD pmos w=0.205u l=0.04u
M_u3-M_u3 Z net14 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT XNR2D0BWP A1 A2 ZN VDD VSS 
MI0-M_u3 net4 A1 net14 VSS nmos w=0.155u l=0.04u
M_u7-M_u3 net6 net10 net14 VSS nmos w=0.17u l=0.04u
M_u2-M_u2 net4 A2 VSS VSS nmos w=0.155u l=0.04u
M_u5-M_u2 net6 net4 VSS VSS nmos w=0.17u l=0.04u
M_u4-M_u2 ZN net14 VSS VSS nmos w=0.155u l=0.04u
M_u8-M_u2 net10 A1 VSS VSS nmos w=0.155u l=0.04u
MI0-M_u2 net4 net10 net14 VDD pmos w=0.255u l=0.04u
M_u7-M_u2 net6 A1 net14 VDD pmos w=0.28u l=0.04u
M_u2-M_u3 net4 A2 VDD VDD pmos w=0.205u l=0.04u
M_u5-M_u3 net6 net4 VDD VDD pmos w=0.24u l=0.04u
M_u4-M_u3 ZN net14 VDD VDD pmos w=0.205u l=0.04u
M_u8-M_u3 net10 A1 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT XNR3D0BWP A1 A2 A3 ZN VDD VSS 
MI8-M_u3 net11 A2 net17 VSS nmos w=0.155u l=0.04u
MU11-M_u3 net5 net17 net21 VSS nmos w=0.155u l=0.04u
MI5-M_u2 net5 A3 VSS VSS nmos w=0.155u l=0.04u
MU22-M_u2 ZN net21 VSS VSS nmos w=0.155u l=0.04u
M_u8-M_u2 net16 A2 VSS VSS nmos w=0.155u l=0.04u
MI4-M_u2 net11 A1 VSS VSS nmos w=0.155u l=0.04u
MI7-M_u2 net13 net17 VSS VSS nmos w=0.155u l=0.04u
MI2-MU3 net17 net16 XI2-net16 VSS nmos w=0.155u l=0.04u
MI2-MU4 XI2-net16 net11 VSS VSS nmos w=0.155u l=0.04u
MU21-MU3 net21 net13 XU21-net16 VSS nmos w=0.155u l=0.04u
MU21-MU4 XU21-net16 net5 VSS VSS nmos w=0.155u l=0.04u
MI8-M_u2 net11 net16 net17 VDD pmos w=0.205u l=0.04u
MU11-M_u2 net5 net13 net21 VDD pmos w=0.205u l=0.04u
MI5-M_u3 net5 A3 VDD VDD pmos w=0.205u l=0.04u
MU22-M_u3 ZN net21 VDD VDD pmos w=0.205u l=0.04u
M_u8-M_u3 net16 A2 VDD VDD pmos w=0.205u l=0.04u
MI4-M_u3 net11 A1 VDD VDD pmos w=0.205u l=0.04u
MI7-M_u3 net13 net17 VDD VDD pmos w=0.205u l=0.04u
MI2-MU2 net17 A2 XI2-net6 VDD pmos w=0.205u l=0.04u
MI2-MU1 XI2-net6 net11 VDD VDD pmos w=0.205u l=0.04u
MU21-MU2 net21 net17 XU21-net6 VDD pmos w=0.205u l=0.04u
MU21-MU1 XU21-net6 net5 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT XOR3D0BWP A1 A2 A3 Z VDD VSS 
MI15 net29 net21 net041 VSS nmos w=0.155u l=0.04u
MU63 net035 net19 VSS VSS nmos w=0.155u l=0.04u
MI14 net041 net13 VSS VSS nmos w=0.155u l=0.04u
MI42 net25 A2 net035 VSS nmos w=0.155u l=0.04u
M_u6-M_u3 net19 net17 net25 VSS nmos w=0.155u l=0.04u
MU18-M_u3 net13 net25 net29 VSS nmos w=0.155u l=0.04u
MI1-M_u2 Z net29 VSS VSS nmos w=0.155u l=0.04u
MI3-M_u2 net13 A3 VSS VSS nmos w=0.155u l=0.04u
MI7-M_u2 net17 A2 VSS VSS nmos w=0.155u l=0.04u
MI2-M_u2 net19 A1 VSS VSS nmos w=0.155u l=0.04u
MI6-M_u2 net21 net25 VSS VSS nmos w=0.155u l=0.04u
MU62 net028 net19 VDD VDD pmos w=0.205u l=0.04u
MI8 net25 net17 net028 VDD pmos w=0.205u l=0.04u
MI12 net29 net25 net029 VDD pmos w=0.205u l=0.04u
MI13 net029 net13 VDD VDD pmos w=0.205u l=0.04u
M_u6-M_u2 net19 A2 net25 VDD pmos w=0.205u l=0.04u
MU18-M_u2 net13 net21 net29 VDD pmos w=0.205u l=0.04u
MI1-M_u3 Z net29 VDD VDD pmos w=0.205u l=0.04u
MI3-M_u3 net13 A3 VDD VDD pmos w=0.205u l=0.04u
MI7-M_u3 net17 A2 VDD VDD pmos w=0.205u l=0.04u
MI2-M_u3 net19 A1 VDD VDD pmos w=0.205u l=0.04u
MI6-M_u3 net21 net25 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

************************************************************
.SUBCKT XOR4D0BWP A1 A2 A3 A4 Z VDD VSS 
MI15-M_u3 net28 net20 net64 VSS nmos w=0.155u l=0.04u
MI8-M_u3 net24 net30 net32 VSS nmos w=0.155u l=0.04u
MI17-M_u3 net28 net40 net24 VSS nmos w=0.155u l=0.04u
MI11-M_u3 net40 A4 net108 VSS nmos w=0.155u l=0.04u
MI9-M_u3 net40 net106 net104 VSS nmos w=0.155u l=0.04u
MI21 net24 A1 net050 VSS nmos w=0.155u l=0.04u
MI22 net050 net32 VSS VSS nmos w=0.155u l=0.04u
MI19-M_u2 net20 net40 VSS VSS nmos w=0.155u l=0.04u
MI13-M_u2 net106 A4 VSS VSS nmos w=0.155u l=0.04u
MI14-M_u2 net104 A3 VSS VSS nmos w=0.155u l=0.04u
M_u8-M_u2 net30 A1 VSS VSS nmos w=0.155u l=0.04u
MI12-M_u2 net108 net104 VSS VSS nmos w=0.155u l=0.04u
MU20-M_u2 Z net28 VSS VSS nmos w=0.155u l=0.04u
MI1-M_u2 net32 A2 VSS VSS nmos w=0.155u l=0.04u
MI16-M_u2 net64 net24 VSS VSS nmos w=0.2u l=0.04u
MI15-M_u2 net28 net40 net64 VDD pmos w=0.205u l=0.04u
MI8-M_u2 net24 A1 net32 VDD pmos w=0.205u l=0.04u
MI17-M_u2 net28 net20 net24 VDD pmos w=0.205u l=0.04u
MI11-M_u2 net40 net106 net108 VDD pmos w=0.205u l=0.04u
MI9-M_u2 net40 A4 net104 VDD pmos w=0.205u l=0.04u
MI19-M_u3 net20 net40 VDD VDD pmos w=0.205u l=0.04u
MI13-M_u3 net106 A4 VDD VDD pmos w=0.205u l=0.04u
MI14-M_u3 net104 A3 VDD VDD pmos w=0.205u l=0.04u
M_u8-M_u3 net30 A1 VDD VDD pmos w=0.205u l=0.04u
MI12-M_u3 net108 net104 VDD VDD pmos w=0.205u l=0.04u
MU20-M_u3 Z net28 VDD VDD pmos w=0.205u l=0.04u
MI1-M_u3 net32 A2 VDD VDD pmos w=0.205u l=0.04u
MI16-M_u3 net64 net24 VDD VDD pmos w=0.28u l=0.04u
MI20 net24 net30 net045 VDD pmos w=0.205u l=0.04u
M_u2 net045 net32 VDD VDD pmos w=0.205u l=0.04u
.ENDS
************************************************************

